US09340556B2
5-Chloro-6,7-bis((4-methoxybenzyl)oxy)-1-methyl-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one
This compound was prepared according to the procedures for the preparation of 5-chloro-1-cyclopropyl-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one as described in Examples 50a-50b and 54a-54g, utilizing methanamine in place of cyclopropanamine in Example 50a. LCMS: (M+H)+: 549.3.

reactant | 5-chloro-1-cyclopropyl-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one | ClC1=C2C(C(=CN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)C1CC1)CN1CCCC1)=O | C33H35ClN2O5
reactant | methanamine | CN | CH5N
product | 5-Chloro-6,7-bis((4-methoxybenzyl)oxy)-1-methyl-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one | ClC1=C2C(C(=CN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)C)CN1CCCC1)=O | C31H33ClN2O5
